US04784791
A mixture of 30 g of 4'-octyloxy-4-formylbiphenyl, 2.0 g of sodium borohydride and 300 ml of isopropanol was stirred on a water bath maintained at 70° C. for 3 hours. 20 ml of 6 N hydrochloric acid and 10 ml of water were added, and the resulting mixture was stirred for 2 hours. The reaction mixture was allowed to cool and filtered to collect solids. These solids were recrystallized from 300 ml of ethanol to obtain 30 g of 4'-octyloxy-4-hydroxymethyl-biphenyl. The total of 4'-octyloxy-4-hydroxymethyl-biphenyl, 100 ml of toluene and 40 g of thionyl chloride were uniformly mixed and allowed to stand overnight at room temperature. Then, the mixture was heated for 30 minutes on a water bath maintained at 70° C. After being allowed to cool, the mixture was poured into ice water and then extracted with 300 ml of toluene. The extract was washed with saturated saline water, with a saturated aqueous sodium hydrogen-carbonate and further with saturated saline water to make it neutral. Then, the extract was dried over anhydrous magnesium sulfate, concentrated and then recrystallized from 300 ml of ethanol to obtain 26 g of 4'-octyloxy-4-chloromethyl-biphenyl having a melting point of 97.3 to 98.0° C. Analysis of the compound by HPLC showed that the purity was 99.6%. (ii) Preparation of Objective Compound

reactant | 4'-octyloxy-4-hydroxymethyl-biphenyl | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)CO | C21H28O2
reactant | thionyl chloride | 40 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-octyloxy-4-chloromethyl-biphenyl | 26 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCl | C21H27ClO
